US07772271B2
A mixture of 1-cyclobutyl-6-methoxy-2-(4-nitro-phenyl)-1H-indole (0.83 g, 2.60 mmol), iron powder (0.84 mg, 15.0 mmol), ammonium chloride (0.96 g, 18.0 mmol), and EtOH/water (25 mL/8 mL) was stirred at 80° C. for 1 h and concentrated. The residue was suspended in DMF (20 mL) and MeOH/CH2Cl2 (1:1, 20 mL). The mixture was passed through a Celite pad, washed with MeOH/CH2Cl2 (1:1), concentrated and water was added to afford a precipitate which was collected by filtration and washed with water. The solid was dissolved in CH2Cl2, dried over MgSO4, concentrated and purified on silica gel (EtOAc/hexane 20%) to provide 4-(1-cyclobutyl-6-methoxy-1H-indole-2-yl)-phenylamine (0.57 mg, 75%) as a white solid.

reactant | 1-cyclobutyl-6-methoxy-2-(4-nitro-phenyl)-1H-indole | 2.60 mmol, 0.83 g | C1(CCC1)N1C(=CC2=CC=C(C=C12)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C19H18N2O3
reactant | ammonium chloride | 18.0 mmol, 0.96 g | [Cl-].[NH4+]
catalyst | iron | 15.0 mmol, 0.84 mg | [Fe] | Fe
solvent | EtOH water | 25 mL | CCO.O
product | 4-(1-cyclobutyl-6-methoxy-1H-indole-2-yl)-phenylamine | 0.57 mg, 75% | C1(CCC1)N1C(=CC2=CC=C(C=C12)OC)C1=CC=C(C=C1)N | C19H20N2O
